US20010016587A1
1-Benzyl-4-chloro-5-(chloromethyl)-2(4-nitrophenyl)imidazole (Compound 9)
Thionyl chloride (0.90 ml, 1.48 g, 12.4 mmol) was added dropwise to a stirred suspension of 1-benzyl-4-chloro-5-(hydroxymethyl)-2(4-nitrophenyl)imidazole (18.5 g, S.4 mmole) in chloroform (15 ml) at room temperature. The brown solution was stirred for 2.5 hours then evaporated to dryness. Toluene (12 ml) was added to the residue and evaporated to dryness. The residue was dissolved in chloroform (20 ml) and used in the next step for introduction of the cyano functional group.

reactant | Thionyl chloride | 12.4 mmol, 0.90 ml, 1.48 g | S(=O)(Cl)Cl | Cl2OS
reactant | 1-benzyl-4-chloro-5-(hydroxymethyl)-2(4-nitrophenyl)imidazole | 4 mmole, 18.5 g | C(C1=CC=CC=C1)N1C(=NC(=C1CO)Cl)C1=CC=C(C=C1)[N+](=O)[O-] | C17H14ClN3O3
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-Benzyl-4-chloro-5-(chloromethyl)-2(4-nitrophenyl)imidazole | C(C1=CC=CC=C1)N1C(=NC(=C1CCl)Cl)C1=CC=C(C=C1)[N+](=O)[O-] | C17H13Cl2N3O2
